US03993679
b. Methyl 2,6-diaminobenzoate
Methyl 2,6-dinitrobenzoate (15.0 gm.) is suspended in methanol (500 ml.) and 5% palladium on charcoal (1.5 gm.) added. Reduction is carried out on a Parr apparatus for 2 hours. The solution is filtered with suction and the catalyst washed with a few ml. of methanol. Removal of the methanol gives a brown crystalline product. Extraction with chloroform (50 ml.) and treatment with Darco gives the product (10.9 gm. 96% yield, m.p. 78°-79.5°). The thin layer chromatogram (Silica gel, 3% methanol in chloroform) shows the material to be homogeneous.

reactant | Methyl 2,6-dinitrobenzoate | 15.0 gm | [N+](=O)([O-])C1=C(C(=O)OC)C(=CC=C1)[N+](=O)[O-] | C8H6N2O6
solvent | methanol | 500 ml | CO | CH4O
catalyst | palladium on charcoal | 1.5 gm | [Pd] | Pd
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Methyl 2,6-diaminobenzoate | 96% yield | NC1=C(C(=O)OC)C(=CC=C1)N | C8H10N2O2
